US05278315
This was prepared using the process described in Stage 3 of Example 1, except that in place of 1-(N-methyl-N-phenylamino)naphthalene there was used 1-(N-ethyl-N-phenylamino)-naphthalene (MW 247, 0.05M, 12.4 g), the amount of POCl3 was reduced to 7.65 g and the amount of dimethyl formamide was reduced to 21.9 g. (N-Ethyl-N-phenylamino)4-formyl-naphthalene (11 g) was obtained as a yellow oil (80% yield).

reactant | 1-(N-methyl-N-phenylamino)naphthalene | CN(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C17H15N
reactant | 1-(N-ethyl-N-phenylamino)-naphthalene | 0.05M, 12.4 g | C(C)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C18H17N
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
product | (N-Ethyl-N-phenylamino)4-formyl-naphthalene | 11 g | C(C)N(C1=CC=CC=C1)C1=CC=C(C2=CC=CC=C12)C=O | C19H17NO
